US09226501B2
Preparation of (E)-2-Bromo-N-(2-methyl-1-(neopentylamino)-1-oxopropan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide
(E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-4,4-dimethyloxazol-5(4H)-one: A 25 mL round bottomed flask was charged with (E)-2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)-2-methylpropanoic acid (400 mg, 0.70 mmol), CH2Cl2 (10 mL) and stirred at 0° C. EDC.HCl (134 mg, 0.70 mmol) was added in one portion as a solid and the reaction mixture was allowed to warm toward ambient temperature and continued to stir for 1 h. The reaction was diluted with CH2Cl2, washed with brine, dried over MgSO4, filtered and evaporated to give a dark oil. The crude product was purified via flash chromatography eluting with 50% hexanes/CH2Cl2 to afford the title compound as an off white foam (220 mg, 57): 1H NMR (400 MHz, CDCl3) δ 7.76 (d, J=8.1 Hz, 1H), 7.73 (d, J=1.6 Hz, 1H), 7.42 (d, J=7.8 Hz, 3H), 6.56 (d, J=15.9 Hz, 1H), 6.45 (dd, J=15.9, 7.7 Hz, 1H), 4.12 (p, J=8.5 Hz, 1H), 1.57 (s, 6H); 19F NMR (376 MHz, CDCl3) δ −68.55; ESIMS m/z 554 ([M−H]−).

reactant | (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-4,4-dimethyloxazol-5(4H)-one | BrC1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C=1OC(C(N1)(C)C)=O | C21H14BrCl3F3NO2
reactant | (E)-2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)-2-methylpropanoic acid | 0.70 mmol, 400 mg | BrC1=C(C(=O)NC(C(=O)O)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H16BrCl3F3NO3
reactant | EDC.HCl | 0.70 mmol, 134 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Bromo-N-(2-methyl-1-(neopentylamino)-1-oxopropan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | BrC1=C(C(=O)NC(C(=O)NCC(C)(C)C)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C26H27BrCl3F3N2O2
